US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-benzylamide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-benzylamide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 63% of theory, C24H24N6O (412.5) Rf value: 0.76 (silica gel; dichloromethane/ethanol=4:1) EKA mass spectrum: (M+H)+ =413

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-benzylamide | C(C1=CC=CC=C1)NC(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1 | C24H21N5O
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-benzylamide-hydrochloride | Yield: 63% | Cl.C(C1=CC=CC=C1)NC(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1 | InChI=1S/C24H24N6O.ClH/c1-30-21-12-9-18(24(31)28-14-16-5-3-2-4-6-16)13-20(21)29-22(30)15-27-19-10-7-17(8-11-19)23(25)26;/h2-13,27H,14-15H2,1H3,(H3,25,26)(H,28,31);1H
